US04609668
1.4 g Bis-(triphenylphosphine)-palladium dichloride and 0.19 g CuI are added, at room temperature, to a solution of 10.5 g trimethylsilylacetylene and 23.6 g 1-(4-bromophenyl)-2,2-dimethylpropan-1-one in 350 ml absolute diethylamine. The reaction mixture is stirred during 20 hours at room temperature, evaporated to dryness at the rotary evaporator and the residue extracted several times with toluene. The toluene is evaporated off and the remaining tacky oil chromatographed on a silica-gel column with hexane/toluene 2:1 as mobile phase to give 1-(4-trimethylsilylethynyl-phenyl)-2,2-dimethylpropan-1-one.

reactant | trimethylsilylacetylene | 10.5 g | C[Si](C)(C)C#C | C5H10Si
reactant | 1-(4-bromophenyl)-2,2-dimethylpropan-1-one | 23.6 g | BrC1=CC=C(C=C1)C(C(C)(C)C)=O | C11H13BrO
solvent | diethylamine | 350 ml | C(C)NCC | C4H11N
catalyst | Bis-(triphenylphosphine)-palladium dichloride | 1.4 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.19 g | [Cu]I
product | 1-(4-trimethylsilylethynyl-phenyl)-2,2-dimethylpropan-1-one | C[Si](C)(C)C#CC1=CC=C(C=C1)C(C(C)(C)C)=O | C16H22OSi
